US05362906
Step 2: [1-Acetyl-4,8,12-trimethyltrideca-3,7,11-trienyl]phosphonic acid
This compound was prepared exactly by the method described in Step 2 of Example 2 except that dimethyl [2-oxo-6,10,14-trimethylpentadeca-5,9,13-trienyl]phosphonate was replaced by dimethyl [1-acetyl-4,8,12-trimethyltrideca-3,7,11-trienyl]phosphonate. Thereby was obtained title compound as a colorless gum.

reactant | dimethyl [2-oxo-6,10,14-trimethylpentadeca-5,9,13-trienyl]phosphonate | O=C(CP(OC)(OC)=O)CCC=C(CCC=C(CCC=C(C)C)C)C | C20H35O4P
reactant | dimethyl [1-acetyl-4,8,12-trimethyltrideca-3,7,11-trienyl]phosphonate | C(C)(=O)C(CC=C(CCC=C(CCC=C(C)C)C)C)P(OC)(OC)=O | C20H35O4P
product | [1-Acetyl-4,8,12-trimethyltrideca-3,7,11-trienyl]phosphonic acid | C(C)(=O)C(CC=C(CCC=C(CCC=C(C)C)C)C)P(O)(O)=O | C18H31O4P
